US04476132
1.681 g of malonic acid diethyl ester in 25 ml of dimethyl acetamide are cooled to 5° and sodium hydride (0.47 g of a 50% strength suspension in mineral oil, de-oiled with hexane) is added in portions. The internal temperature should not exceed 20° in the course of this addition. Once the exothermic reaction has subsided, stirring is carried out for 15 minutes at room temperature, then the mixture is heated to approximately 100° and, in the course of 60 minutes, 2.628 g of N-ethyl-5-butyryl-4-methylisatic acid anhydride dissolved in 25 ml of dimethylacetamide are added dropwise. The mixture is then heated at 115° for 5 hours, concentrated to dryness by evaporation under reduced pressure, poured into a mixture of 50 ml of ice-water and 10 ml of 2N hydrochloric acid, and stirred until crystallisation occurs. The crystals are filtered with suction, washed with a little diethyl ether, and recrystallised from methanol yielding 1-ethyl-6-butyryl-4-hydroxy- 7-methylcarbostyril-3-carboxylic acid ethyl ester having a melting point of 124°-126° C.

reactant | malonic acid diethyl ester | 1.681 g | C(C)OC(CC(=O)OCC)=O | C7H12O4
reactant | sodium hydride | [H-].[Na+]
reactant | hexane | CCCCCC | C6H14
reactant | N-ethyl-5-butyryl-4-methylisatic acid anhydride | 2.628 g | C(C)NC=1C(=CC(=C(C1)C)C(CCC)=O)C(=O)C(=O)OC(C(C=1C(NCC)=CC(=C(C1)C(CCC)=O)C)=O)=O | C30H36N2O7
solvent | dimethyl acetamide | 25 ml | CC(=O)N(C)C | C4H9NO
solvent | dimethylacetamide | 25 ml | CC(=O)N(C)C | C4H9NO
product | 1-ethyl-6-butyryl-4-hydroxy- 7-methylcarbostyril-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(N(C2=CC(=C(C=C2C1O)C(CCC)=O)C)CC)=O | C19H23NO5
